US09056843B2
Intermediate 96b: N-Hydroxy-4-phenylsulfamoyl-benzamidine
4-Cyano-N-phenyl-benzenesulfonamide (crude) (198 mg, 0.652 mmol), Sodium bicarbonate (547 mg, 6.52 mmol) and NH2OH.HCl (453 mg, 6.52 mmol) was dissolved in EtOH (2172 μL) and the resulting solution stirred overnight at 60° C. The mixture was diluted with EtOAc and water. The water phase was extracted and the combined organic phases washed with brine, then dried over magnesium sulfate. After evaporation of the solvent, 175 mg (0.571 mmol) of a white solid was obtained. The product was used without purification in the next step.

reactant | 4-Cyano-N-phenyl-benzenesulfonamide | 0.652 mmol, 198 mg | C(#N)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=CC=C1 | C13H10N2O2S
reactant | Sodium bicarbonate | 6.52 mmol, 547 mg | C([O-])(O)=O.[Na+]
reactant | NH2OH.HCl | 6.52 mmol, 453 mg | NO.Cl
solvent | EtOH | 2172 μL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | N-Hydroxy-4-phenylsulfamoyl-benzamidine | 0.571 mmol, 175 mg | ONC(C1=CC=C(C=C1)S(NC1=CC=CC=C1)(=O)=O)=N | C13H13N3O3S
